US07977344B2
8-Bromo-2-{[1-methyl-2-(methoxy)ethyl]oxy}-9-(tetrahydro-2H-Pyran-2-yl)-9H-purin-6-amine
To a stirred solution of 2-{[1-methyl-2-(methoxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (7.2 g, 23.4 mmol) in dichloromethane (100 ml) was added NBS (4.6 g, 25.8 mmol). After 4 h, the solvent was removed. The product was purified on a silica column using petroleum ether: ethyl acetate 2:1 as eluent. This gave the product (7.3 g, 81.1%).

reactant | 2-{[1-methyl-2-(methoxy)ethyl]oxy}-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 23.4 mmol, 7.2 g | CC(COC)OC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C14H21N5O3
reactant | NBS | 25.8 mmol, 4.6 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 8-Bromo-2-{[1-methyl-2-(methoxy)ethyl]oxy}-9-(tetrahydro-2H-Pyran-2-yl)-9H-purin-6-amine | 7.3 g, 81.1% | BrC=1N(C2=NC(=NC(=C2N1)N)OC(COC)C)C1OCCCC1 | C14H20BrN5O3
